US04657916
Preparation of 4-hydroxy-2-(11-hydroxyundecyl) quinoline-N-oxide
In this example, 4-benzyloxy-2-(11-hydroxyundecyl) quinoline-N-oxide is dissolved in methanol and catalytically reduced with a catalyst of 10% palladium-carbon under the atmospheric pressure. Then, the catalyst is removed therefrom by filtration, and the solvent is also removed therefrom by distillation. The residue is recrystallized from ethanol, whereby the cationed compound is obtained (yield: 57.5%).

reactant | 4-benzyloxy-2-(11-hydroxyundecyl) quinoline-N-oxide | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCO | C27H35NO3
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 4-hydroxy-2-(11-hydroxyundecyl) quinoline-N-oxide | yield: 57.5% | OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCO | C20H29NO3
